US07981460B2
4-Hydroxybenzyl alcohol (651 mg, 5.24 mmol), 8-methylnonanoic acid (948 mg, 5.50 mmol) and Novozyme 435 (50 mg) were measured and placed in a flask (25 ml). The mixture was stirred with heating in an oil bath at 50° C. for 16 hr without plugging the flask. After stirring with heating for 2 to 3 hr, attachment of water onto the upper wall of the flask was observed. The reaction mixture was allowed to cool to room temperature, hexane (50 ml) was added, and Novozyme 435 and the insoluble material were removed by filtration. Hexane (25 ml) was added to the filtrate, and the mixture was washed with 5% aqueous citric acid solution (25 ml×2) and saturated brine (25 ml) and dried over anhydrous magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure to give 4-hydroxybenzyl 8-methylnonanoate (0.98 g, yield 67.3%) as a thin-yellow oil.

reactant | 4-Hydroxybenzyl alcohol | 5.24 mmol, 651 mg | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | 8-methylnonanoic acid | 5.50 mmol, 948 mg | CC(CCCCCCC(=O)O)C | C10H20O2
reactant | water | O | H2O
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 4-hydroxybenzyl 8-methylnonanoate | 0.98 g, yield 67.3% | CC(CCCCCCC(=O)OCC1=CC=C(C=C1)O)C | C17H26O3
